US07291642B2
17d) 2,3-Dichloro-N-[2-(3-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-2-oxoimidazolidin-1-yl)ethyl]-N-methylbenzenesulphonamide hydrochloride
A solution of 137 mg (0.29 mmol) of 2,3-dichloro-N-(2-{3-[2-(4-cyanophenyl)ethyl]-2-oxoimidazolidin-1-yl}ethyl)-N-methylbenzenesulphonamide, 2 ml of ethylenediamine and 4.6 mg (0.14 mmol) of sulphur was stirred at 100° C. for two hours. Water was then added, and the mixture was extracted with ethyl acetate. The organic extracts were washed with saturated sodium chloride solution, dried over sodium sulphate and concentrated. The crude product obtained in this manner was purified by column chromatography on silica gel (mobile phase: dichloromethane/methanol/NH3 13:1:0.1 to 8:1:0.1). Using etheral hydrochloric acid, the product was then converted into the hydrochloride and freeze-dried.

reactant | 2,3-dichloro-N-(2-{3-[2-(4-cyanophenyl)ethyl]-2-oxoimidazolidin-1-yl}ethyl)-N-methylbenzenesulphonamide | 0.29 mmol, 137 mg | ClC1=C(C=CC=C1Cl)S(=O)(=O)N(C)CCN1C(N(CC1)CCC1=CC=C(C=C1)C#N)=O | C21H22Cl2N4O3S
reactant | ethylenediamine | 2 ml | C(CN)N | C2H8N2
reactant | sulphur | 0.14 mmol, 4.6 mg | [S] | S
solvent | Water | O | H2O
product | 2,3-Dichloro-N-[2-(3-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-2-oxoimidazolidin-1-yl)ethyl]-N-methylbenzenesulphonamide hydrochloride | Cl.ClC1=C(C=CC=C1Cl)S(=O)(=O)N(C)CCN1C(N(CC1)CCC1=CC=C(C=C1)C=1NCCN1)=O | InChI=1S/C23H27Cl2N5O3S.ClH/c1-28(34(32,33)20-4-2-3-19(24)21(20)25)13-14-30-16-15-29(23(30)31)12-9-17-5-7-18(8-6-17)22-26-10-11-27-22;/h2-8H,9-16H2,1H3,(H,26,27);1H
